US07977370B2
1-butyl-4,4-bis(5-fluoro-3-methyl-1H-indol-2-yl)-N,N-dimethylcyclohexanamine
5-fluoro-3-methyl indole (596 mg, 4 mmol) together with 4-butyl-4-(dimethylamino)-cyclohexanone (788 mg, 4 mmol, synthesis cf. WO2008009415, ketone unit Ket-4) was dissolved in dichloromethane (30 ml) and mixed with trifluoromethane sulphonic acid (400 μl, 4.6 mmol). The batch was stirred for 24 h at RT. For work up the reaction mixture was mixed with 2N NaOH (30 ml) and stirred for 20 min at RT. After separation of the organic phase the aqueous phase was extracted with dichloromethane (3×15 ml). The combined organic extracts were dried over Na2SO4 and then concentrated to low volume. The raw product obtained (1.4 g) was purified by column chromatography [silica gel 60 (50 g); ethyl acetate (500 ml)].

reactant | 5-fluoro-3-methyl indole | 4 mmol, 596 mg | FC=1C=C2C(=CNC2=CC1)C | C9H8FN
reactant | 4-butyl-4-(dimethylamino)-cyclohexanone | 4 mmol, 788 mg | C(CCC)C1(CCC(CC1)=O)N(C)C | C12H23NO
reactant | trifluoromethane sulphonic acid | 4.6 mmol, 400 μl | FC(S(=O)(=O)O)(F)F | CHF3O3S
reactant | NaOH | 2N, 30 ml | [OH-].[Na+]
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | 1-butyl-4,4-bis(5-fluoro-3-methyl-1H-indol-2-yl)-N,N-dimethylcyclohexanamine | C(CCC)C1(CCC(CC1)(C=1NC2=CC=C(C=C2C1C)F)C=1NC2=CC=C(C=C2C1C)F)N(C)C | C30H37F2N3
